US06972294B1
(E)-(2S)-2-Ethoxy-3-{4-[3-(4-fluorophenyl)-3-phenyl-allyloxy]-phenyl}-propionic acid ethyl ester
Reaction of (E)-3-(4-fluorophenyl)-3-phenyl-prop-2-en-1-ol (200 mg, 0.88 mmol), triphenylphosphine (242 mg, 0.92 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (200 mg, 0.84 mmol) and diethyl azodicarboxylate (160 mg, 0.92 mmol) in an identical manner to example 1 gave the title compound (320 mg, 85%).

reactant | (E)-3-(4-fluorophenyl)-3-phenyl-prop-2-en-1-ol | 0.88 mmol, 200 mg | FC1=CC=C(C=C1)/C(=C/CO)/C1=CC=CC=C1 | C15H13FO
reactant | triphenylphosphine | 0.92 mmol, 242 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 0.84 mmol, 200 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | diethyl azodicarboxylate | 0.92 mmol, 160 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | (E)-(2S)-2-Ethoxy-3-{4-[3-(4-fluorophenyl)-3-phenyl-allyloxy]-phenyl}-propionic acid ethyl ester | 320 mg, 85% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(/C1=CC=CC=C1)\C1=CC=C(C=C1)F)OCC)=O | C28H29FO4
